US20010006969A1
2-Allylamino-4-dodecylamino-6-nitroquinazoline
To 170 mg (0.44 mmol) of 2-chloro-4-dodecylamino-6-nitroquinazoline was added 1.70 ml (22.66 mmol) of allylamine, and then the resulting mixture was stirred at room temperature overnight. After water was added to the reaction solution, crystals thus precipitated were filtered to give 170 mg (93.4%) of the title compound.

reactant | 2-chloro-4-dodecylamino-6-nitroquinazoline | 0.44 mmol, 170 mg | ClC1=NC2=CC=C(C=C2C(=N1)NCCCCCCCCCCCC)[N+](=O)[O-] | C20H29ClN4O2
reactant | allylamine | 22.66 mmol, 1.70 ml | C(C=C)N | C3H7N
solvent | water | O | H2O
product | 2-Allylamino-4-dodecylamino-6-nitroquinazoline | 170 mg, 93.4% | C(C=C)NC1=NC2=CC=C(C=C2C(=N1)NCCCCCCCCCCCC)[N+](=O)[O-] | C23H35N5O2
